US05710106
Preparation of 2-(Chloromethyl)-6-[(2-chloro-4-pyridyl)oxy]pyridine
A mixture of 6-[(2-chloro-4-pyridyl)oxy]-2-pyridinemethanol (10.2 g, 0.043 mol) and thionyl chloride (10 mL) is stirred at room temperature for 90 minutes. Excess thionyl chloride is hydrolyzed by adding water to the reaction mixture until no further reaction is observed. The reaction mixture is then neutralized with saturated sodium hydrogen carbonate solution and extracted with dichloromethane. The organic extracts are combined, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain the title product (10.6 g, 97%).

reactant | 6-[(2-chloro-4-pyridyl)oxy]-2-pyridinemethanol | 0.043 mol, 10.2 g | ClC1=NC=CC(=C1)OC1=CC=CC(=N1)CO | C11H9ClN2O2
reactant | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 2-(Chloromethyl)-6-[(2-chloro-4-pyridyl)oxy]pyridine | 10.6 g, 97% | ClCC1=NC(=CC=C1)OC1=CC(=NC=C1)Cl | C11H8Cl2N2O
